US03932644
5-Benzyl-6-methylthiouracil (6.0 gms) and sodium hydroxide (1.06 gms) were dissolved in water (30 mls). The solution was cooled and ethanol (60 mls) and methyl iodide (3.67 gms) added with stirring. The mixture was heated at 60°C for 1/2 hour, cooled and the resulting solid collected and water-washed. A second crop of solid was obtained by acidification of the filtrate to pH=4 with acetic acid. Recrystallisation from ethanol produced 5-benzyl-6-methyl-2-methylthio-4-pyrimidone (5.53 gms) m.p. = 220°-221.5°C.

reactant | 5-Benzyl-6-methylthiouracil | 6.0 gms | C(C1=CC=CC=C1)C=1C(NC(NC1C)=S)=O | C12H12N2OS
reactant | sodium hydroxide | 1.06 gms | [OH-].[Na+]
reactant | ethanol | 60 mls | C(C)O | C2H6O
reactant | methyl iodide | 3.67 gms | CI | CH3I
solvent | water | 30 mls | O | H2O
product | 5-benzyl-6-methyl-2-methylthio-4-pyrimidone | 5.53 gms | C(C1=CC=CC=C1)C=1C(NC(=NC1C)SC)=O | C13H14N2OS
